US07109339B2
6-Iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (7 g, 21 mmol) was suspended in CH2Cl2 (150 mL) and to this suspension was added 4-dimethylamino-pyridine (0.1 g, 0.82 mmol) and saturated potassium carbonate solution (150 mL) with stirring. Then di-tert-butyl dicarbonate (5.5 g, 25.2 mmol) in dichloromethane (20 mL) was added in 5 portions over 5 min. The resulting two-phase mixture was stirred vigorously at rt for 1.5 h. Layers were separated and aqueous layer was back extracted with CH2Cl2 (2×100 mL). The organics were collected, dried over magnesium sulfate, filtered and then concentrated under reduced pressure to give tert-butyl 6-iodo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (7.06 g, 84%). 1H NMR (CDCl3 300 MHz) δ 7.63 (d, 1H, J=7.7 Hz), 7.38 (d, 1H, J=7.7 Hz), 6.76 (t, 1H, J=7.5 Hz), 4.59 (br s, 2H), 3.82 (br s, 2H), 2.78 (t, 2H, J=5.3 Hz), 1.49 (s, 9H) ppm.

reactant | 6-Iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 21 mmol, 7 g | Cl.IC1=CC=CC=2C3=C(NC12)CCNC3
reactant | potassium carbonate | 150 mL | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 25.2 mmol, 5.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 0.82 mmol, 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 6-iodo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 7.06 g, 84% | IC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C16H19IN2O2
